US04950674
α,α-Bis(4-fluorophenyl)-3-pyrrolidinemethanol
A solution of 26.6 g (0.07 mole) of α,α-bis(4-fluorophenyl)-1-(phenylmethyl)-3-pyrrolidinemethanol in 500 ml of ethanol was hydrogenated at 60 psi and 70° C. over 5% palladium on carbon catalyst for 2 days. The mixture was cooled and filtered through Celite®. The filtrate was concentrated under reduced pressure to give a solid as residue. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration and dried to yield 18.5 g (91%) of the title compound as a white solid, m.p. 152°-153° C. (2-propanol).

reactant | α,α-bis(4-fluorophenyl)-1-(phenylmethyl)-3-pyrrolidinemethanol | 0.07 mole, 26.6 g | FC1=CC=C(C=C1)C(O)(C1CN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F | C24H23F2NO
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | α,α-Bis(4-fluorophenyl)-3-pyrrolidinemethanol | 18.5 g, 91% | FC1=CC=C(C=C1)C(O)(C1CNCC1)C1=CC=C(C=C1)F | C17H17F2NO
